US04546197
1-Decanoyloxypropan-2-one (44.3 g, 0.194 mole) was dissolved in a solution of tetrahydrofuran (1100 cm3) and benzene (200 cm3). After cooling to 5°, ice water (80 cm3) was added. Sodium borohydride (11 g, 0.291 mole) was added to the stirred solution in small proportions to maintain the temperature at 5°. After addition the reaction was stirred at 5° for 45 minutes and glacial acetic acid (14 cm3) was added dropwise. Stirring at 5° was continued for a further 30 minutes. Diethyl ether and chloroform (200 cm3 each) were added and the mixture washed with water (2×200 cm3), a 1% sodium bicarbonate solution (200 cm3) and brine (200 cm3). The organic phase was dried over sodium sulphate and evaporated to yield 1-decanoyloxypropan-2-ol as a colorless liquid (44.0 g, 0.191 mole, 98%), ir (neat) 3600-3100, 2920, 2860, 1730, 1460, 1375, 1240, 1175, 1110, 1055 cm-1 ; pmr (CDCI3) δ 4.0 (m, 2 H), 3.6 (m, 1 H), (D2) m 1 H), 2.3 (t, 2 H), 2.0-1.0 (bm, 17 H) and 0.85 (t, 3 H) ppm.

reactant | 1-Decanoyloxypropan-2-one | 0.194 mole, 44.3 g | C(CCCCCCCCC)(=O)OCC(C)=O | C13H24O3
reactant | Sodium borohydride | 0.291 mole, 11 g | [BH4-].[Na+]
reactant | acetic acid | 14 cm3 | C(C)(=O)O | C2H4O2
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1100 cm3 | O1CCCC1 | C4H8O
solvent | benzene | 200 cm3 | C1=CC=CC=C1 | C6H6
solvent | chloroform | 200 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 1-decanoyloxypropan-2-ol | 0.191 mole, 44.0 g, 98% | C(CCCCCCCCC)(=O)OCC(C)O | C13H26O3
